US07125892B2
[1,1′Bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane(II) (1.43 g) was added to a stirred mixture of 3-cyanophenylboronic acid (10.0 g, 61.8 mmol) and 2-bromo-4-nitroanisole (14.35 g, 62 mmol) in 2.0N cesium carbonate (92.7 mL, 185.4 mmol) and ethylene glycol dimethylether (200 mL). The flask was purged with nitrogen and heated at 90° C. (oil bath) for 4 hours. The mixture was allowed to cool to room temperature overnight, during which time the product precipitated from solution. The solid was collected on a Buchner funnel, washed with water and dried under reduced pressure to give 2-(3-cyanophenyl)-4-nitroanisole (15.7 g).

reactant | 3-cyanophenylboronic acid | 61.8 mmol, 10.0 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 2-bromo-4-nitroanisole | 62 mmol, 14.35 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | cesium carbonate | 185.4 mmol, 2.0N, 92.7 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethylene glycol dimethylether | 200 mL | COCCOC | C4H10O2
catalyst | [1,1′Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-cyanophenyl)-4-nitroanisole | 15.7 g | C(#N)C=1C=C(C=CC1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C14H10N2O3
